US08492372B2
N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE
A mixture of 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (0.4 g, 1.30 mmol), methanamine (33% in EtOH, 2.0 ml, 16.1 mmol) and EtOH (3.0 ml) was heated in a micro wave oven at 145° C. for 30 min. The volatiles were evaporated in vacuum and the crude product was chromathographed twice on a silica column using EtOAc/MeOH (4:1) as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded the title compound (0.25 g, 74%). The amine was converted into hydrochloric acid salt and crystallized from EtOH/MeOH/DEE. M.p. 225° C. MS m/z (rel. intensity, 70 eV) 257 (M+, 1), 123 (76), 78 (35), 77 (bp), 51 (97).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 1.30 mmol, 0.4 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | methanamine | 16.1 mmol, 2.0 ml | CN | CH5N
solvent | EtOH | 3.0 ml | CCO | C2H6O
product | N-METHYL-1-[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHANAMINE | 0.25 g, 74% | CNCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C11H15NO4S
